*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXF500ARA101MJA0G
*//   Date        : 2022/09/28
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXF500ARA101MJA0G_20deg-C 1 2

C1 4 2 8.93e-05
C2 5 2 9.48e-06
C3 6 2 3.74e-06
R1 3 4 1.13e-02
R2 4 5 3.39e-01
R3 5 6 8.96e+00
L1 1 3 4.50e-09

.ENDS
*$
